US09388189B2
(S)—N-(5-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide
(S)—N-(5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide (53 mg, 0.06 mmol) was treated with trifluoroacetic acid (1.05 ml, 13.63 mmol) and a solution of ammonia (7N in methanol, 1.05 ml, 7.35 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 10% dichloromethane-2-propanol) to obtain 22 mg (68% yield) of the title compound.

reactant | (S)—N-(5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide | 0.06 mmol, 53 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C=1C=C(C=NC1)NS(=O)(=O)C)COCC[Si](C)(C)C | C33H39N9O4SSi
reactant | trifluoroacetic acid | 13.63 mmol, 1.05 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 7.35 mmol, 7N, 1.05 ml | N | H3N
product | (S)—N-(5-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)methanesulfonamide | 22 mg, 68% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C=1C=C(C=NC1)NS(=O)(=O)C | C27H25N9O3S
